US06498169B1
Synthesis of 1-(Ethoxycarbonyl)-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methylamino]piperidine
4-Amino-1-(ethoxycarbonyl)piperidine (341 mg) and 4-chloromethyl-2-( 3,4,5-trimethoxyphenyl)pyridine (300 mg) were condensed in the same manner as described in Example 2 to give the title compound.

reactant | 4-Amino-1-(ethoxycarbonyl)piperidine | 341 mg | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 4-chloromethyl-2-( 3,4,5-trimethoxyphenyl)pyridine | 300 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 1-(Ethoxycarbonyl)-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methylamino]piperidine | C(C)OC(=O)N1CCC(CC1)NCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H31N3O5
